US07585885B2
5-Benzoyl-N-methyl-N-propyl-isophthalamic acid
Dissolve 5-benzoyl-N-methyl-N-propyl-isophthalamic acid methyl ester (60 mg, 0.17 mmol) in methanol (4 mL). Add dropwise 1 N lithium hydroxide (0.23 mL) and stir overnight at room temperature. Acidify the mixture to about pH=6 by 5 N HCl and concentrate to near dryness. Dilute the residue with ethyl acetate and wash with saturated aqueous sodium chloride solution, dry (magnesium sulfate) and concentrate to give the title compound (83%).

reactant | 5-benzoyl-N-methyl-N-propyl-isophthalamic acid methyl ester | 0.17 mmol, 60 mg | COC(C1=CC(C(=O)N(CCC)C)=CC(=C1)C(C1=CC=CC=C1)=O)=O | C20H21NO4
reactant | lithium hydroxide | 1 N, 0.23 mL | [OH-].[Li+]
reactant | HCl | 5 N | Cl | ClH
solvent | methanol | 4 mL | CO | CH4O
product | 5-Benzoyl-N-methyl-N-propyl-isophthalamic acid | 83% | C(C1=CC=CC=C1)(=O)C=1C=C(C=C(C(=O)O)C1)C(=O)N(CCC)C | C19H19NO4
